US04666911
To 20 ml of ethanol, were added 5.0 g of 1-(2,4,4-trimethylallophanoyl)piperazine hydrochloride and 3.7 g of sodium carbonate. To the resulting mixture, was added dropwise with stirring 2.5 g of isopropyl bromide. The mixture was allowed to react under reflux for 8 hours and the precipitate was removed by filtration. The filtrate was concentrated and the residue was purified with a silica gel column to obtain an oil. This oil was converted to hydrochloride in the customary way and recrystallized from ethanol to obtain 3.8 g (65% yield) of 1-(isopropyl)-4-(2,4,4-trimethylallophanoyl)piperazine hydrochloride having a melting point of 213°-215° C.

reactant | 1-(2,4,4-trimethylallophanoyl)piperazine hydrochloride | 5.0 g | Cl.CN(C(=O)N1CCNCC1)C(=O)N(C)C
reactant | sodium carbonate | 3.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | isopropyl bromide | 2.5 g | C(C)(C)Br | C3H7Br
reactant | hydrochloride | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(isopropyl)-4-(2,4,4-trimethylallophanoyl)piperazine hydrochloride | 3.8 g, 65% yield | Cl.C(C)(C)N1CCN(CC1)C(N(C(=O)N(C)C)C)=O | InChI=1S/C12H24N4O2.ClH/c1-10(2)15-6-8-16(9-7-15)12(18)14(5)11(17)13(3)4;/h10H,6-9H2,1-5H3;1H
